US08912210B2
Step B: 5-(2,3-Difluorophenyl)piperidin-2-one
A mixture of ethyl 4-cyano-4-(2,3-difluorophenyl)butanoate (18.5 g, 73.1 mmol), Raney nickel (slurry in water, ca. 30 g), and ammonia (2.0 M in EtOH, 550 mL) was stirred vigorously under an atmosphere of hydrogen (ca. 1 atm) for 18 h. The reaction mixture was filtered through a pad of Celite®, washing with EtOH, and the filtrate was concentrated in vacuo to give a crude solid. Recrystallization from EtOAc afforded the title compound. MS: m/z=211.9 (M+1).

reactant | ethyl 4-cyano-4-(2,3-difluorophenyl)butanoate | 73.1 mmol, 18.5 g | C(#N)C(CCC(=O)OCC)C1=C(C(=CC=C1)F)F | C13H13F2NO2
catalyst | Raney nickel | ca. 30 g | [Ni] | Ni
solvent | ammonia | 2.0 M, 550 mL | N | H3N
product | 5-(2,3-Difluorophenyl)piperidin-2-one | FC1=C(C=CC=C1F)C1CCC(NC1)=O | C11H11F2NO
